US08017555B2
To the mixture of 4-chlorophenyl hydroxycarbamimidate (0.5 mmol. 1 eq) and DIEA (1.25 mmol, 2.5 eq) in dioxane was added dropwise furan-2-carbonyl chloride (0.53 mmol, 1.05 eq) at 0-5° C. The mixture was allowed to warm to room temperature and then stirred for 0.5-1 h or until complete as determined by LC-MS analysis of the reaction mixture. The cyclodehydration reaction was run at reflux (115-120° C.) overnight. The mixture was cooled down and solvent was removed in vacuo. The resulting residue was purified by HPLC purification to provide desired 3-(4-Chloro-phenoxy)-5-furan-2-yl-[1,2,4]oxadiazole in a yield of 50% and purity of 99.9%. LC-MS [M+H] 263.3 (C12H7ClN2O3+H, requires 263.65). 1H NMR (DMSO-d6) δ 8.17 (d, 1H, J=1.75), 7.63 (d, 1H, J=3.5), 7.55 (d, 2H, J=8.8), 7.46 (d, 2H, J=8.8), 6.87 (m, 1H).

reactant | 4-chlorophenyl hydroxycarbamimidate | 0.5 mmol, 1 eq | ONC(OC1=CC=C(C=C1)Cl)=N | C7H7ClN2O2
reactant | DIEA | 1.25 mmol, 2.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | furan-2-carbonyl chloride | 0.53 mmol, 1.05 eq | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(4-Chloro-phenoxy)-5-furan-2-yl-[1,2,4]oxadiazole | yield of 50% | ClC1=CC=C(OC2=NOC(=N2)C=2OC=CC2)C=C1 | C12H7ClN2O3
